US07737166B2
7-[(3S)-3-(Dimethylamino)pyrrolidin-1-yl]-2-(1-fluoro-1-methylethyl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (#148)
Under nitrogen atmosphere, a dimethyl sulfoxide (4 ml) solution of 7-fluoro-2-(1-fluoro-1-methylethyl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-312) (128 mg, 410 μmol), triethylamine (74 μl, 533 μmol) and (3S)-3-(dimethylamino)pyrrolidine (62 μl, 492 μmol) was stirred at 90° C. for 2.5 hours. After cooling, saturated-brine was added to the reaction liquid, and the mixture liquid was extracted with ethyl acetate. Next, the combined organic layer was dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by middle-pressure liquid chromatography (eluent, dichloromethane:methanol=10:1, v/v) to obtain a rough product of the entitled compound, followed by suspension washing with diethyl ether to obtain the entitled compound as a pale yellow solid. The filtrate was concentrated, and the obtained solid was washed by suspension with isopropyl ether to obtain the entitled compound as a pale yellow solid (total 54 mg, 38%).

reactant | dimethyl sulfoxide | 4 ml | CS(=O)C | C2H6OS
reactant | 7-fluoro-2-(1-fluoro-1-methylethyl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 410 μmol, 128 mg | FC=1C(=C(C(=C2N=C(OC21)C(C)(C)F)C#N)C)C2=CC=CC=C2 | C18H14F2N2O
reactant | triethylamine | 533 μmol, 74 μl | C(C)N(CC)CC | C6H15N
reactant | (3S)-3-(dimethylamino)pyrrolidine | 492 μmol, 62 μl | CN([C@@H]1CNCC1)C | C6H14N2
solvent | brine | [Cl-].[Na+].O
product | 7-[(3S)-3-(Dimethylamino)pyrrolidin-1-yl]-2-(1-fluoro-1-methylethyl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | CN([C@@H]1CN(CC1)C=1C(=C(C(=C2N=C(OC21)C(C)(C)F)C#N)C)C2=CC=CC=C2)C | C24H27FN4O
